US07705027B2
Sulphuric acid (4 ml, 75 mmol) was added to a suspension of 2,4-dihyroxyacetophenone (22.8 g, 150 mmol) in a mixture of 2-methyl-2-propanol (35 g, 470 mmol) and trifluoroacetic acid (80 ml), under a nitrogen atmosphere. The resulting suspension was heated, oil bath temperature 75° C., for ˜3 hrs. to give a pale red solution. The resulting solution was allowed to cool and poured into ice/water (350 ml), to give a pale pink precipitate. The solids were removed by filtration and washed with water (600 ml) and hexane (200 ml) to give a pale pink powder. Dried in vacuo (40° C.), to give 1-(5-tert-butyl-2,4-dihydroxy-phenyl)-ethanone as a pale orange powder (28.8 g, 92%).

reactant | Sulphuric acid | 75 mmol, 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dihyroxyacetophenone | 150 mmol, 22.8 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | 2-methyl-2-propanol | 470 mmol, 35 g | CC(C)(C)O | C4H10O
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(5-tert-butyl-2,4-dihydroxy-phenyl)-ethanone | 28.8 g, 92% | C(C)(C)(C)C=1C(=CC(=C(C1)C(C)=O)O)O | C12H16O3
